US04767760
To a stirred mixture of 16 parts of 2-[3-chloro-4-[(2,4-dichlorophenyl)hydroxymethyl]phenyl]-1,2,4-triazine-3,5(2H,4H)-dione and 150 parts of trichloromethane are added dropwise, during a period of 5 minutes, 16 parts of thionyl chloride. Upon completion, stirring is continued for 3 hours at reflux temperature. The reaction mixture is evaporated in vacuo. Methylbenzene is added and the whole is evaporated again, yielding 2-[3-chloro-4-[chloro(2,4-dichlorophenyl)methyl]phenyl]-1,2,4-triazine-3,5(2H,4H)-dione.

reactant | 2-[3-chloro-4-[(2,4-dichlorophenyl)hydroxymethyl]phenyl]-1,2,4-triazine-3,5(2H,4H)-dione | ClC=1C=C(C=CC1C(O)C1=C(C=C(C=C1)Cl)Cl)N1N=CC(NC1=O)=O | C16H10Cl3N3O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
product | 2-[3-chloro-4-[chloro(2,4-dichlorophenyl)methyl]phenyl]-1,2,4-triazine-3,5(2H,4H)-dione | ClC=1C=C(C=CC1C(C1=C(C=C(C=C1)Cl)Cl)Cl)N1N=CC(NC1=O)=O | C16H9Cl4N3O2
